US04242518
20.2 parts of 3-acetoxydihydrothiophene-2-carboxylic acid methyl ester are reacted with 6.75 parts by volume of sulfuryl chloride in 150 parts by volume of CCl4 at 0° C. for one hour. The end product is isolated from the reaction mixture by the method described in Example 14(c). 15.8 parts (79% of theory) of 3-acetoxythiophene-2-carboxylic acid methyl ester of boiling point 84°-86° C./0.04 mbar are obtained.

reactant | 3-acetoxydihydrothiophene-2-carboxylic acid methyl ester | COC(=O)C1SC=CC1OC(C)=O | C8H10O4S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-acetoxythiophene-2-carboxylic acid methyl ester | 79% | COC(=O)C=1SC=CC1OC(C)=O | C8H8O4S
